US07105671B2
A solution of dimethyl 3,3′-thiodipropionate (30.00 g, 144.0 mmol) in ethylene glycol dimethyl ether (200 mL), under nitrogen, was treated with sodium hydride (7.00 g, 145.8 mmol), and the reaction was heated under reflux for 1.5 h. The reaction mixture was then cooled to 25° C. and was slowly treated with a saturated aqueous sodium bicarbonate solution. The solvent was then removed in vacuo, and the resulting residue was diluted with water (500 mL) and extracted with ethyl acetate (3×300 mL). The combined organic extracts were then washed with a saturated aqueous sodium bicarbonate solution (1×150 mL) followed by a saturated aqueous sodium chloride solution (1×150 mL). The organic layer was dried over magnesium sulfate, filtered, and concentrated in vacuo. Biotage chromatography, performed in two batches, (FLASH 40M, Silica, 9/1 hexanes/diethyl ether) afforded 4-hydroxy-5,6-dihydro-2H-thiopyran-3-carboxylic acid methyl ester (12.89 g, 51.4%) as a colorless oil.

reactant | dimethyl 3,3′-thiodipropionate | 144.0 mmol, 30.00 g | S(CCC(=O)OC)CCC(=O)OC | C8H14O4S
reactant | sodium hydride | 145.8 mmol, 7.00 g | [H-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethylene glycol dimethyl ether | 200 mL | COCCOC | C4H10O2
product | 4-hydroxy-5,6-dihydro-2H-thiopyran-3-carboxylic acid methyl ester | 12.89 g, 51.4% | COC(=O)C=1CSCCC1O | C7H10O3S
